US04459302
To a solution of 5 g (0.018 mole) of 5-(2-ethylphenyl)-3-(3-methoxyphenyl)-1H-1,2,4-triazole in 50 ml of anhydrous acetonitrile, 2,25 ml (0.018 mole) of 4-methylphenyl isocyanate were added. The resulting mixture was kept in the darkness for 18 hours, then the solid which formed was recovered by filtration and the mother liquors were brought to dryness under vacuum at room temperature. The obtained residue was taken up with 20 ml of diethyl ether, the mixture was filtered and the solid on the filter was collected with the solid deriving from the first filtration. 5.9 Grams (80%) of 5-(2-ethylphenyl)-3-(3-methoxyphenyl)-1-(4-methylphenylcarbamoyl)-1H-1,2,4-triazole were obtained. M.p. 141°-42° C. (from acetonitrile). Δδ=-0.24.

reactant | 5-(2-ethylphenyl)-3-(3-methoxyphenyl)-1H-1,2,4-triazole | 0.018 mole, 5 g | C(C)C1=C(C=CC=C1)C1=NC(=NN1)C1=CC(=CC=C1)OC | C17H17N3O
reactant | 4-methylphenyl isocyanate | 0.018 mole, 2,25 ml | CC1=CC=C(C=C1)N=C=O | C8H7NO
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 5-(2-ethylphenyl)-3-(3-methoxyphenyl)-1-(4-methylphenylcarbamoyl)-1H-1,2,4-triazole | 80% | C(C)C1=C(C=CC=C1)C1=NC(=NN1C(NC1=CC=C(C=C1)C)=O)C1=CC(=CC=C1)OC | C25H24N4O2
